US04455422
2.8 Grams of 6-(4-chloro-1-butenyl)-3,4- dihydrocarbostyril and 2.1 g of sodium iodide were dissolved in 40 ml of dimethylformamide and stirred at 50° C. for 1 hour. To this solution were added 2.7 g of 4-(2-chloro-6-methlphenyl)piperazine and 1.5 g of triethylamine and the mixture was further stirred at 50° C. for 5 hours. The reaction mixture was concentrated under a reduced pressure to dryness to obtain a residue. To the residue were added 10N-NaOH and ether and stirred at a room temperature for 30 minutes to precipitate crystals. The crystals were separated by a silica-gel chromatography and recrystallized from ethanol-acetone-chloroform to obtain 6-{4-[4-(2-chloro-6-methlphenyl)-1-piperazinyl]-1-butenyl}-3,4-dihydrocarbostyril in colorless prism-like crystals. Yield: 2.7 g. Melting point: 179°-180° C.

reactant | 6-(4-chloro-1-butenyl)-3,4- dihydrocarbostyril | ClCCC=CC=1C=C2CCC(NC2=CC1)=O | C13H14ClNO
reactant | sodium iodide | 2.1 g | [I-].[Na+]
reactant | 4-(2-chloro-6-methlphenyl)piperazine | 2.7 g | ClC1=C(C(=CC=C1)C)N1CCNCC1 | C11H15ClN2
reactant | NaOH | [OH-].[Na+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
solvent | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
product | 6-{4-[4-(2-chloro-6-methlphenyl)-1-piperazinyl]-1-butenyl}-3,4-dihydrocarbostyril | ClC1=C(C(=CC=C1)C)N1CCN(CC1)CCC=CC=1C=C2CCC(NC2=CC1)=O | C24H28ClN3O
